*SRC=BZT52C2V7T;DI_BZT52C2V7T;Diodes;Zener <=10V; 2.70V  0.15W   Diodes Inc. -
*SYM=HZEN
.SUBCKT DI_BZT52C2V7T  1 2
*        Terminals    A   K
D1 1 2 DF
DZ 3 1 DR
VZ 2 3 0.217
.MODEL DF D ( IS=76.3p RS=36.7 N=1.10
+ CJO=461p VJ=0.750 M=0.330 TT=50.1n )
.MODEL DR D ( IS=15.3f RS=84.5 N=3.00 )
.ENDS
